US05166203
Preparation of 2-ethoxymethylmorpholine [compound (IX) in which R1 is ethoxy]
4-Benzyl-2-ethoxymethylmorpholine (1.6 g) and 10% palladium-carbon (200 mg) are added to ethanol (30 ml), and the mixture is stirred under hydrogen pressure of 5 kg/cm2 for 24 hours. Palladium-carbon is filtered off, and the solvent is distilled off under reduced pressure to give the title compound (0.7 g) as colorless liquid.

reactant | 4-Benzyl-2-ethoxymethylmorpholine | 1.6 g | C(C1=CC=CC=C1)N1CC(OCC1)COCC | C14H21NO2
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-ethoxymethylmorpholine | 0.7 g | C(C)OCC1CNCCO1 | C7H15NO2
